US05972943
1-Isopropylpiperazine
A mixture of 7.26 g of 1-acetyl-4-isopropylpiperazine, 100 ml of methanol and 10 g of potassium hydroxide was heated under reflux for 17 hours. After the solvent was distilled off, water and chloroform were added to perform extraction with chloroform and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to afford 5.78 g of the title compound as an oily substance.

reactant | 1-acetyl-4-isopropylpiperazine | 7.26 g | C(C)(=O)N1CCN(CC1)C(C)C | C9H18N2O
reactant | potassium hydroxide | 10 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-Isopropylpiperazine | 5.78 g | C(C)(C)N1CCNCC1 | C7H16N2
